US09303007B2
Nitrogen was bubbled through a solution of (1R,3S,5R)-tert-butyl 3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (1.65 g, 4.40 mmol) and Cu(I)I (168 mg, 0.880 mmol) in triethylamine (3.07 mL, 22.0 mmol) and DMF (40 mL) for 20 min. Then, ethynyltrimethylsilane (2.16 g, 22.0 mmol) and Pd(PPh3)4 (254 mg, 0.220 mmol) were added, the reaction was flushed with nitrogen, sealed and stirred at rt for 24 h. The reaction was concentrated to a brown oil, and purified by BIOTAGE® Horizon (160 g SiO2, 20-40% EtOAc/hexanes) to yield (1R,3S,5R)-tert-butyl 3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (980 mg) as a yellow solid. LC-MS retention time 3.230 min; m/z 346.17 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 7.18 (s, 1H), 4.77 (dd, J=9.2, 5.1 Hz, 1H), 3.20 (br. s., 1H), 3.14-3.39 (m, 1H), 2.33 (dd, J=13.2, 9.4 Hz, 1H), 1.69-1.78 (m, 1H), 1.34-1.56 (m, 1H), 1.49 (s, 9H), 0.85 (dt, J=8.5, 5.7 Hz, 1H), 0.41-0.47 (m, 1H), 0.22-0.24 (m, 9H).

reactant | (1R,3S,5R)-tert-butyl 3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 4.40 mmol, 1.65 g | IC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C13H18IN3O2
reactant | triethylamine | 22.0 mmol, 3.07 mL | C(C)N(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 22.0 mmol, 2.16 g | C(#C)[Si](C)(C)C | C5H10Si
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.220 mmol, 254 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,3S,5R)-tert-butyl 3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 980 mg | C[Si](C)(C)C#CC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C18H27N3O2Si
